US08067445B2
Step 1: (6-Fluoro-2′-methylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 5, using the following starting materials: (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester and methylamine (2M in THF).

reactant | (6-fluoro-2′-formyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C17H12F4O3
reactant | methylamine | 2M | CN | CH5N
product | (6-Fluoro-2′-methylaminomethyl-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)F)C1=C(C=C(C=C1)C(F)(F)F)CNC)=O | C18H17F4NO2
